US07354920B2
b) (S,R) 1-Morpholin-2-yl-1-phenyl-2-(2-trifluoromethoxy-phenyl)-ethanol hydrochloride
To a solution of 1-(4-Benzyl-morpholin-2-yl)-1-phenyl-2-(2-trifluoromethoxy-phenyl)-ethanol (7 g, 1 equiv.) in dry 1,2-dichloroethane (40 mL) at 0° C. under nitrogen atmosphere was added ACE-Cl (20.33 g, 10 equiv.). The reaction mixture was left to warm to room temperature for 48 hours. All volatiles were evaporated under vacuum, and the resulting solid was taken-up with methanol (50 mL) and stirred at room temperature overnight. The solution was filtered through acid ion exchange column and the required fractions evaporated to dryness. The resulting solid was taken up with acetonitrile and the insoluble material filtered off. The mother liquor was concentrated in vacuo and purified via preparative HPLC. Both fractions were mixed (from slurry and from HPLC) and taken up in ethanol. Hydrogen chloride was added (large excess of 2M solution in diethyl ether) and the mixture stirred. Then all the volatiles were evaporated in vacuo, to give 1.9 g of the title compound as a white solid (33%). 1H NMR (300 MHz, DMSO D6) δ: 2.45-2.50 (m, 1H), 2.81-2.97 (m, 2H), 3.18-3.30 (m, 3H), 3.89-3.97 (m, 1H), 4.15-4.18 (m, 2H), 7.02-7.29 (m, 9H), 9.18 (bs, 2H). LCMS (12 minutes method) [M+H]+=368 @ Rt 4.88 min. single major peak. NET Ki=12.39 nM.

reactant | 1-(4-Benzyl-morpholin-2-yl)-1-phenyl-2-(2-trifluoromethoxy-phenyl)-ethanol | 7 g, 1 equiv. | C(C1=CC=CC=C1)N1CC(OCC1)C(CC1=C(C=CC=C1)OC(F)(F)F)(O)C1=CC=CC=C1 | C26H26F3NO3
reactant | ACE-Cl | 20.33 g, 10 equiv. | CC(OC(=O)Cl)Cl | C3H4Cl2O2
solvent | 1,2-dichloroethane | 40 mL | ClCCCl | C2H4Cl2
product | (S,R) 1-Morpholin-2-yl-1-phenyl-2-(2-trifluoromethoxy-phenyl)-ethanol hydrochloride | 1.9 g, 33% | Cl.N1C[C@@H](OCC1)[C@@](CC1=C(C=CC=C1)OC(F)(F)F)(O)C1=CC=CC=C1 | InChI=1S/C19H20F3NO3.ClH/c20-19(21,22)26-16-9-5-4-6-14(16)12-18(24,15-7-2-1-3-8-15)17-13-23-10-11-25-17;/h1-9,17,23-24H,10-13H2;1H/t17-,18+;/m1./s1
